US07410976B2
1′-[(4,8-Dimethoxyquinolin-2-yl)carbonyl]-6-(4H-1,2,4-triazol-3-ylamino)spiro[chroman-2,4′-piperidin]-4-one
1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-6-[1-(2-trimethylsilanylethoxymethyl)-1H-[1,2,4]triazol-3-ylamino]spiro[chroman-2,4′-piperidin]-4-one (27.0 mg, 0.0419 mmol) was dissolved in CHCl3 (1 mL), and TFA (1 mL) and ethane-1,2-diamine (35.0 mg, 0.583 mmol) was added thereto. After stirring at room temperature for 16 h, the reaction mixture was diluted with CHCl3 and 1N NaOH aq. The aqueous layer was extracted with CHCl3 and combined organic layer was washed with brine, dried over MgSO4. The desiccant was removed through filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel thin-layer chromatography (CHCl3/MeOH=9/1) to obtain the intended compound as a yellow foam. 1H-NMR (400 MHz, CDCl3) δ7.95 (1H, d, J=2.8 Hz), 7.93 (1H, s), 7.76 (1H, dd, J=8.4, 1.2 Hz), 7.61 (1H, dd, J=8.8, 2.8 Hz), 7.46 (1H, dd, J=8.4, 8.4 Hz), 7.19 (1H, br s), 7.11 (1H, s), 7.08 (1H, d, J=8.4, 1.2 Hz), 6.93 (1H, d, J=8.8 Hz), 4.50-4.60 (1H, m), 4.08 (3H, s), 4.03 (3H, s), 3.90-4.10 (1H, m), 3.50-3.65 (1H, m), 3.25-3.40 (1H, m), 2.73 (1H, d, J=16.8 Hz), 2.68 (1H, d, J=16.8 Hz), 2.15-2.30 (1H, m), 1.95-2.10 (1H, m), 1.50-1.90 (2H, m). MS [M+H]+=515.

reactant | 1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-6-[1-(2-trimethylsilanylethoxymethyl)-1H-[1,2,4]triazol-3-ylamino]spiro[chroman-2,4′-piperidin]-4-one | 0.0419 mmol, 27.0 mg | COC1=CC(=NC2=C(C=CC=C12)OC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)NC2=NN(C=N2)COCC[Si](C)(C)C | C33H40N6O6Si
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ethane-1,2-diamine | 0.583 mmol, 35.0 mg | C(CN)N | C2H8N2
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | NaOH | 1N | [OH-].[Na+]
product | 1′-[(4,8-Dimethoxyquinolin-2-yl)carbonyl]-6-(4H-1,2,4-triazol-3-ylamino)spiro[chroman-2,4′-piperidin]-4-one | COC1=CC(=NC2=C(C=CC=C12)OC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)NC2=NN=CN2 | C27H26N6O5
